US04452809
Trans-1-(4-fluorophenyl)-3-(3-hydroxy-4-phenoxy-1-pyrrolidinyl)-1-propanone
A mixture of 3.6 g. (0.02 mole) of 4-phenoxy-3-pyrrolidinol, 5 g. (0.0215 mole) of β-dimethylamino-p-fluoropropiophenone hydrochloride, 10 g. of potassium carbonate and 50 ml. of dimethylformamide was heated with stirring at 70° C. for 6 hr. while nitrogen gas was bubbled through the reaction mixture. The mixture was poured into water and extracted twice with benzene. The combined extracts were dried over anhydrous sodium sulfate and concentrated to give 6.1 g. of an oil as residue. The oil was chromatographed on 130 g. of silica gel. The desired compound was eluted with 20% acetone in benzene and 2.6 g. (39%) of an oil which gradually crystallized upon standing was obtained. This solid was recrystallized from petroleum ether diethylether to yield a white solid, m.p. 77°-80° C.

reactant | 4-phenoxy-3-pyrrolidinol | 0.02 mole | O(C1=CC=CC=C1)C1C(CNC1)O | C10H13NO2
reactant | β-dimethylamino-p-fluoropropiophenone hydrochloride | 0.0215 mole | Cl.CN(CCC(=O)C1=CC=C(C=C1)F)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Trans-1-(4-fluorophenyl)-3-(3-hydroxy-4-phenoxy-1-pyrrolidinyl)-1-propanone | FC1=CC=C(C=C1)C(CCN1C[C@H]([C@@H](C1)OC1=CC=CC=C1)O)=O | C19H20FNO3
